US09302989B2
N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(pyridin-4-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting pyridin-4-ylboronic acid for 1H-pyrazol-3-ylboronic acid and 5-bromo-N-(4-(2-cyclopentylacetamido)phenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.70 (s, 1H), 8.69-8.61 (m, 2H), 8.33 (s, 1H), 7.82-7.69 (m, 4H), 7.54-7.41 (m, 5H), 4.81 (bs, 4H), 2.31-2.15 (m, 3H), 1.82-1.68 (m, 2H), 1.68-1.43 (m, 4H), 1.26-1.11 (m, 2H); MS (ESI(+)) m/e 441 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | 5-bromo-N-(4-(2-cyclopentylacetamido)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)NC(CC1CCCC1)=O | C22H24BrN3O2
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(pyridin-4-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C1=CC=NC=C1 | C27H28N4O2
